US06492364B1
3-(3-(4-(diphenylmethyl)piperidyl)propyl)quinoxaline-2-ol (257 mg) was dissolved in THF, and Lawesson's reagent (200 mg) was added to the solution, followed by stirring the mixture at 60° C. for 8 hours. Then Lawesson's reagent (110 mg) was further added and the mixture was stirred at 60° C. for 8 hours. Water was added to the mixture and then the mixture was extracted with dichloromethane. Organic layers were combined and washed with brine. The resultant was dried over anhydrous sodium: sulfate and the residue was purified by (ethanol:ethyl acetate=10:1) to obtain 103 mg of 3-(3-(4-(diphenylmethyl)piperidyl)propyl)quinoxaline-2-thiol. Yield: 39%.

reactant | 3-(3-(4-(diphenylmethyl)piperidyl)propyl)quinoxaline-2-ol | 257 mg | C1(=CC=CC=C1)C(C1CCN(CC1)CCCC=1C(=NC2=CC=CC=C2N1)O)C1=CC=CC=C1 | C29H31N3O
reactant | Lawesson's reagent | 200 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Lawesson's reagent | 110 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(3-(4-(diphenylmethyl)piperidyl)propyl)quinoxaline-2-thiol | 103 mg, Yield: 39% | C1(=CC=CC=C1)C(C1CCN(CC1)CCCC=1C(=NC2=CC=CC=C2N1)S)C1=CC=CC=C1 | C29H31N3S
